US06846492B2
d) 1-Amino-2-(3,4-dihexyloxyphenyl)ethane
1-Nitro-2-(3,4-dihexyloxyphenyl)ethene (30 g; 85.8 mmol) is dissolved in ethanol with the addition of hydrochloric acid and transferred to a hydrogenation autoclave charged with Pd/C. Cooling is then carried out, and hydrogen is introduced until no further reaction takes place. Filtration is then carried out over a silica gel column, followed by concentration to dryness by evaporation.

reactant | 1-Nitro-2-(3,4-dihexyloxyphenyl)ethene | 85.8 mmol, 30 g | [N+](=O)([O-])C=CC1=CC(=C(C=C1)OCCCCCC)OCCCCCC | C20H31NO4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
solvent | hydrochloric acid | Cl | ClH
catalyst | Pd/C | [Pd] | Pd
product | 1-Amino-2-(3,4-dihexyloxyphenyl)ethane | NCCC1=CC(=C(C=C1)OCCCCCC)OCCCCCC | C20H35NO2
